US08791090B2
[Step 3] Reactions and treatments were carried out in the same manner as in Step 5 of Example 117, using 111.1 mg of (2S,4R)-1-acetyl-2-methyl-4-[2,2,2-trifluoro-N-(4-morpholinophenyl)acetamido]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid benzyl ester instead of ethyl (2S,4R)-1-acetyl-2-methyl-4-(4-nitrophenoxy)-1,2,3,4-tetrahydroquinoline-6-carboxylate, and using ethanol instead of methanol. Thus, 83.5 mg (88.3%) of (2S,4R)-1-acetyl-2-methyl-4-[2,2,2-trifluoro-N-(4-morpholinophenyl)acetamido]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid was obtained as a pale yellow amorphous substance.

reactant | (2S,4R)-1-acetyl-2-methyl-4-[2,2,2-trifluoro-N-(4-morpholinophenyl)acetamido]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid benzyl ester | 111.1 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)N(C(C(F)(F)F)=O)C1=CC=C(C=C1)N1CCOCC1 | C32H32F3N3O5
solvent | ethanol | C(C)O | C2H6O
product | (2S,4R)-1-acetyl-2-methyl-4-[2,2,2-trifluoro-N-(4-morpholinophenyl)acetamido]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid | 83.5 mg, 88.3% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(=O)O)N(C(C(F)(F)F)=O)C1=CC=C(C=C1)N1CCOCC1)C | C25H26F3N3O5
